US05997843
i) Synthesis of 2-(4-aminobutyl)amino-2-methyl-3-pentanone oxime
To a stirred solution of 1,4-diaminobutane (0.26 g; 2.9 mmol) and triethylamine (0.33 g; 3.2 mmol) in acetonitrile (5 ml) was added a solution of 2-chloro-2-methyl-3-nitrosopentane (0.485 g; 3.24 mmol) in acetonitrile (5 ml). After stirring for ca 10 minutes the product began to precipitate. The reaction mixture was stirred overnight and the product was filtered off and dried in vacuo to give a white powder, (0.5 g; 86%).

reactant | 1,4-diaminobutane | 2.9 mmol, 0.26 g | NCCCCN | C4H12N2
reactant | triethylamine | 3.2 mmol, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-2-methyl-3-nitrosopentane | 3.24 mmol, 0.485 g | ClC(C)(C(CC)N=O)C | C6H12ClNO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(4-aminobutyl)amino-2-methyl-3-pentanone oxime | NCCCCNC(C)(C(CC)=NO)C | C10H23N3O
